US04439614
Preparation of (2,2,6-trimethylbicyclo[4.1.0]hept-1-yl)methanol (2).
A solution of 0.4 g of Cu(OAc2).H2O in 20 mL of hot HOAc was treated with 8.8 g (0.13 g-atom) of Zn dust with shaking for 3 min, and the acid was decanted. The Zn-Cu couple was washed by decantation with 30 mL of 1:1 HOAc/Et2O, followed by Et2O (6×30 mL). Next, 20 mL of Et2O was added together with a crystal of I2. A mixture of 18.8 g (70 mmol) of CH2I2 and 3.08 g (20 mmol) of β-cyclogeraniol (l) was added dropwise over a 20-min period, with warming to maintain a gentle reflux. Heating at reflux was continued for an additional 2 h. The cooled solution was decanted, the residue was washed with Et2O, and the total Et2O volume was brought to 200 mL. The solution was cooled in ice/H2O, and pyridine (8 to 9 mL) was added dropwise until no further ZnI2 -pyridine complex separated. The reaction was cooled to -5° C. overnight, filtered twice, and evaporated. Further complex separated on evaporation. TLC (9:1 hexane/EtOAc) demonstrated a single product. The crude oil was eluted through a 3×25 cm silica gel column by 9:1 hexane/Et2O, followed by 1:1 hexane/Et2O. The spectrally pure, colorless oil weighed 3.4 g (quant): IR (film) 3400 (OH), 1460, 1385, 1365, 1155, 1035, 1010, 705 cm-1 ; 1H NMR (CDCl3) δ0.22 (d, J=4.5 Hz, 1, cyclopropyl H), 0.49 (d, J=4.5 Hz, 1, cyclopropyl H), 0.99 (s, 3, CH3), 1.21 (s, 3, CH3), 1.26 (s, 3, CH3), 1.0-1.8 [m, 7, (CH2)3, OH], 3.51 and 3.92 (d, J=12 Hz, 1, and dd, J=12 and 3.5 Hz, 1, CH2O); 13C NMR (CDCl3), 65.8, 38.0, 35.5, 31.9, 31.3, 29.2, 27.4, 23.9, 22.5, 21.7, 18.0 ppm; MS calcd for C11H20O 168.1514, found 168.1521.

reactant | H2O | O | H2O
reactant | CH2I2 | 70 mmol, 18.8 g | C(I)I | CH2I2
reactant | β-cyclogeraniol | 20 mmol, 3.08 g | CC1=C(C(CCC1)(C)C)CO | C10H18O
solvent | HOAc | 20 mL | CC(=O)O | C2H4O2
catalyst | Zn | 8.8 g | [Zn] | Zn
product | (2,2,6-trimethylbicyclo[4.1.0]hept-1-yl)methanol | CC1(C2(CC2(CCC1)C)CO)C | C11H20O
